US07402684B2
(R)-2-[4-(4-Oxazol-2-yl-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
The title compound (20 mg, 23%) was prepared from oxazole (60 mg, 0.81 mmol) and (R)-2-[4-(4-iodo-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.2 mmol) using the procedure of Example 146, step 1; 1HNMR (400 MHz, CDCl3) δ 7.95 (d, J=8.4 Hz, 2H), 7.68 (d, J=0.8 Hz, 1H), 7.26 (m, 2H), 7.21 (d, J=0.8 Hz, 1H), 7.10 (d, J=8 Hz, 2H), 6.86 (br d, J=7.2 Hz, 2H), 4.10 (br, 2H), 3.96 (s, 2H), 3.9-3.75 (br, 2H), 3.40 (br, 2H), 2.03-1.84 (br, 4H), 1.46 (s, 9H).

reactant | oxazole | 0.81 mmol, 60 mg | O1C=NC=C1 | C3H3NO
reactant | (R)-2-[4-(4-iodo-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.2 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=C(C=C1)I | C23H28INO3
product | (R)-2-[4-(4-Oxazol-2-yl-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 20 mg, 23% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=C(C=C1)C=1OC=CN1 | C26H30N2O4
